US08247403B2
(1) tert-butyl 9-(morpholin-4-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A solution of tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (200 mg, 0.609 mmol), morpholine (0.159 ml, 1.83 mmol), X-phos (17.4 mg, 0.0365 mmol), tris(dibenzylideneacetone)dipalladium(0) (11.0 mg, 0.0120 mmol), sodium tert-butoxide (87.5 mg, 0.912 mmol) and dioxane (4 ml) was stirred under an argon atmosphere for 2 hr at 80° C. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the desired product (150 mg, 73.7%) as an oil.

reactant | tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.609 mmol, 200 mg | BrC1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C14H18BrNO3
reactant | morpholine | 1.83 mmol, 0.159 ml | N1CCOCC1 | C4H9NO
reactant | sodium tert-butoxide | 0.912 mmol, 87.5 mg | CC(C)([O-])C.[Na+]
reactant | dioxane | 4 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0120 mmol, 11.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | X-phos | 0.0365 mmol, 17.4 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | water | O | H2O
product | tert-butyl 9-(morpholin-4-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 150 mg, 73.7% | N1(CCOCC1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C18H26N2O4
